US05547967
A mixture of 5.75 g of 3-(hydroxymethyl)piperidine, 13.8 ml of triethylamine and 10 g of 2-(3,4-dimethoxyphenyl)-ethyl chloride was heated under reflux for 4 hours. After the reaction mixture had cooled, it was acidified with about 30 ml of aqueous 2N hydrochloric acid solution, and unreacted 2-(3,4-dimethoxyphenyl)-ethyl chloride was separated by extraction with tert-butyl methyl ether. The aqueous phase was then rendered alkaline by addition of sodium hydroxide solution and was extracted with dichloromethane. The organic phase was separated, dried and concentrated. 5.3 g of N-[2-(3,4-dimethoxyphenyl)-ethyl]-3-(hydroxymethyl)-piperidine were obtained.

reactant | 3-(hydroxymethyl)piperidine | 5.75 g | OCC1CNCCC1 | C6H13NO
reactant | 2-(3,4-dimethoxyphenyl)-ethyl chloride | 10 g | COC=1C=C(C=CC1OC)CCCl | C10H13ClO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | triethylamine | 13.8 ml | C(C)N(CC)CC | C6H15N
product | N-[2-(3,4-dimethoxyphenyl)-ethyl]-3-(hydroxymethyl)-piperidine | 5.3 g | COC=1C=C(C=CC1OC)CCN1CC(CCC1)CO | C16H25NO3
